US04927938
2-Amino-3-chloro-5-acetylpyridine
1.9 g (10 mmol) of 2,3-dichloro-5-acetylpyridine are heated at 170° C. in a mixture of 80 ml of tetrahydrofuran and 20 ml of concentrated aqueous ammonia in an autoclave for 8 hours. After the tetrahydrofuran has been evaporated off, the residue is diluted with water and the mixture is brought to pH 5 and extracted with ethyl acetate.

reactant | 2,3-dichloro-5-acetylpyridine | 10 mmol, 1.9 g | ClC1=NC=C(C=C1Cl)C(C)=O | C7H5Cl2NO
reactant | ammonia | 20 ml | N | H3N
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 2-Amino-3-chloro-5-acetylpyridine | NC1=NC=C(C=C1Cl)C(C)=O | C7H7ClN2O
